2149-01-27 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Dopa titrated down to 8mcg overnight
   Haldol 1mg IV x 1 given for agitation
   3L IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2149-1-26**] 06:30 PM
   Piperacillin - [**2149-1-27**] 04:00 AM
   Infusions:
   Dopamine - 10 mcg/Kg/[**Year (4 digits) 83**]
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-1-26**] 10:00 PM
   Haloperidol (Haldol) - [**2149-1-27**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (54 - 84) bpm
   BP: 103/52(64) {56/34(39) - 184/157(132)} mmHg
   RR: 18 (9 - 26) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,456 mL
                                                                  1,365 mL
   PO:
             TF:
   IVF:
                                                                  2,456 mL
                                                                  1,365 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    900 mL
   Urine:
                                                                    600 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,856 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General: Eyes closed, screaming out intermittently, restless. NAD.
   HEENT: Left surgical pupil. Right pupil RRL. Sclerae anicteric, MM dry,
   oropharynx clear. Poor dentition.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, or rhonchi but
   mild bibasilar rales
   CV: Faint heart sounds, regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, mild tenderness just below umbilicus, no rebound
   tenderness or guarding, +BS
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema.
   Cachectic.
   Skin: no rashes; scattered ecchymoses
   Neuro: responds to voice, but has difficulty opening eyes. CN II-XII in
   tact (except left surgical pupil). Moving ext x 4. Increased tone,
   resists movement.
   Labs / Radiology
   234 K/uL
   9.0 g/dL
   146 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   45 mg/dL
   116 mEq/L
   144 mEq/L
   27.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2149-1-26**]  10:58 PM
                             [**2149-1-27**]  05:44 AM
   WBC
   8.8
   Hct
   27.3
   Plt
   234
   Cr
   2.1
   1.9
   TropT
   0.12
   0.12
   Glucose
   137
   146
   Other labs: CK / CKMB / Troponin-T:281/7/0.12, Differential-Neuts:82.4
   %, Lymph:12.8 %, Mono:4.3 %, Eos:0.4 %, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   MICRO:
   [1][**2149-1-26**]
   URINE
   URINE CULTURE-PENDING
   [2][**2149-1-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [3][**2149-1-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
   [**Age over 90 **] yo M admitted with shock of unclear source.
   .
   # Shock: most likely septic in origin. Still requiring pressors and IVF
   (has received about 8L total).  Continues on broad spectrum abx (vanco,
   zosyn, flagyl). Can narrow as data comes back. Ischemic colitis still
   remains on differential, but no stool yet to guaiac. No gross blood per
   rectum.
   - c diff
   - urine, blood, sputum cultures
   - continue vanco/zosyn/flagyl for empiric coverage
   - continue peripheral dopamine for now, however not ideal for >24 hrs,
   and will have to reassess goals of care if no progress by tonight.
   - IVF as tolerated by EF and respiratory status - unable to proceed
   aggressively with early goal directed therapy given no CVL, no
   intubation of volume overload.
   -guaiac stool
   - hold all antihypertensives
   .
   # ARF: likely prerenal azotemia vs. ATN. Obtain urine for lytes and
   sediment.
   .
   # Hypernatremia: continue D5
 NS today and recheck PM lytes
   .
   # Cards:
        Coronaries: elevated trop but other explanations to explain this
   besides ACS. Continue to monitor on telemetry and trend CE's. Continue
   aspirin, statin. No antihypertensives at this time given hypotension on
   pressors.
        Pump: Volume down. Given IVF as tolerated by EF and sats.
        Rhythm: paced. Monitor on telemetry.
   .
   # Hypothyroidism - will continue synthroid IV for now.
   .
   # Dementia: attempt to orient as much as possible. Unable to give
   namenda and mirtazapine right now given mental status. Will restart
   once more alert. Can use haldol prn for agitation.
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin; asp precautions
   .
   # Access: peripherals
   .
   # Code: DNR/DNI, no CVL or other procedures. peripheral pressors okay
   for 24 hours.
   .
   # Communication: [**Known lastname 5802**], wife and HCP. Discussed goals with
   wife at length; decision is to make CMO if patient not going in the
   right direction, ie: maxed out on 1 pressor, SOB etc.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2149-1-26**] 05:31 PM
   20 Gauge - [**2149-1-26**] 05:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mr [**Known lastname **] presents with septic shock and
   concerns regarding a abdominal source ( Abd CT with features of
   colitis) . He has responded to IVF ( nearly 7.5L thus far) and moderate
   range dopamine ( 8 microgms/ kg/[**Known lastname 83**]) overnight. he is now more
   responsive and can take PO meds.
   Exam notable for elderly frail male in minimal resp distress not using
   accessory muscles. He has decreased breath sounds at bases,  tympanitic
   abdomen with mild tenderness to palpation. .
   Tm of 97.6 BP of 105/60 ( on dopa) HR 70 RR 15-18 with satsof 95% on
   3lpm O2.
    Labs notable for WBC of 8.K, HCT of 27.3 , K+ of 4.5 , Cr of 1.9 (
   2.9), BUN of 45 and trop of 0.12, lactate is now 1.4. CXR with ?
   atelectasis at left base. EKG is V paced.
   Agree with plan to rescucitate with 1 unpRBC's, IVF's and wean dopamine
   today. We will continue broad Abx for 'colitis' and obtain stool
   cultures when available.  His family is very clear regarding ovreall
   goals of care and if he should still be pressor dependent tonite, we
   will speak regarding institution of comfort measures given overall
   decline and significant co-morbidity.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 30 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2149-1-27**] 11:58 AM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2149-01-28 07:09:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   The patient requried dopamine 6-12mcg/kg/min for much of yesterday,
   received 1U PRBC and 5L IVF, weaned off peripheral dopamine at 2100.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-27**] 10:15 AM
   Piperacillin - [**2149-1-28**] 02:00 AM
   Metronidazole - [**2149-1-28**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-1-27**] 10:00 PM
   Haloperidol (Haldol) - [**2149-1-28**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 53 (53 - 76) bpm
   BP: 114/50(62) {76/34(46) - 126/85(88)} mmHg
   RR: 14 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,015 mL
                                                                    271 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  5,710 mL
                                                                    271 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,060 mL
                                                                    430 mL
   Urine:
                                                                  2,060 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,955 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Gen: awake, NAD
   HEENT: MMM
   Heart: S1S2 RRR
   Lungs: CTAB in ant lung fields
   Abd: BS present, soft NTND
   Ext: WWP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.0 g/dL
   84 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   31 mg/dL
   118 mEq/L
   144 mEq/L
   25.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2149-1-26**]  10:58 PM
                             [**2149-1-27**]  05:44 AM
                             [**2149-1-27**]  02:00 PM
                             [**2149-1-28**]  01:34 AM
   WBC
   8.8
   7.0
   Hct
   27.3
   25.8
   Plt
   234
   181
   Cr
   2.1
   1.9
   1.7
   1.4
   TropT
   0.12
   0.12
   0.09
   Glucose
   137
   146
   98
   84
   Other labs: PT / PTT / INR:18.2/123.0/1.7, CK / CKMB /
   Troponin-T:294/6/0.09, Differential-Neuts:82.4 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:0.4 %, Lactic Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:2.2 mg/dL
   Imaging: [**1-27**] CT A/P - IMPRESSION:
   1. Limited scan without intravenous or oral contrast; wall
   thickening and pericolonic fat stranding at the distal descending
   colon/sigmoid could result from colitis or diverticulitis; recommend
   correlation with colonoscopy or follow up after treatment to exclude
   underlying neoplasm.
   2. Incompletely characterized left renal cyst - consider US.
   Microbiology: [**1-27**] Blood Cx - NGTD
   [**1-27**] Urine Cx - PND
   2.16 C.diff - equivocal
   Assessment and Plan
   [**Age over 90 **] yo M admitted with shock of unclear source.
   .
   # Shock: most likely septic in origin.  Off of pressures.   Unclear
   source.  Cultures NGTD.  Continues on broad spectrum abx (vanco, zosyn,
   flagyl). Can narrow as data comes back.  She also has ? colitis on CT
   abd/pelvis with unequivocal c diff test.  Will switch flagyl to PO.
   Unlikely cause of this for transient septic shock.  Ischemic colitis
   still remains lower on the differential, but no gross blood per rectum.
   - resend c diff
   - follow up urine, blood, sputum cultures
   - continue vanco/zosyn/flagyl for empiric coverage for 72 hours unless
   cultures turn positive
   - switch flagyl to oral after speech and swallow eval
   - IVF as needed
   -guaiac stool
   - hold all antihypertensives
   .
   # ARF: likely prerenal azotemia vs. ATN. Improved with IVF.
   .
   # Hypernatremia: continue D5
 NS today and recheck PM lytes
   .
   # Cards:
        Coronaries: elevated trop but other explanations to explain this
   besides ACS. Continue to monitor on telemetry and trend CE's. Continue
   aspirin, statin. No antihypertensives at this time given hypotension on
   pressors.
        Pump: Volume down. Given IVF as tolerated by EF and sats.
        Rhythm: paced. Monitor on telemetry.
   .
   # Decreased cell counts:  Most likely dilutional due to 5L IVF
   yesterday.
   -          will recheck pm HCT
   -          - guaic all stools
   .
   # Hypothyroidism - will continue synthroid IV for now.
   .
   # Dementia: attempt to orient as much as possible. Unable to give
   namenda and mirtazapine right now given mental status. Will restart
   once more alert. Can use haldol prn for agitation.
   .
   # Elevated PTT with subq heparin:  Upto 120s.  Will check LFTs.
   .
   # FEN: IVF, replete electrolytes, NPO till speech and swallow eval
   .
   # Prophylaxis: Subcutaneous heparin; asp precautions
   .
   # Access: peripherals
   .
   # Code: DNR/DNI, no CVL or other procedures. peripheral pressors okay
   for 24 hours.
   .
   # Communication: [**Known lastname 5802**], wife and HCP. Discussed goals with
   wife at length; decision is to make CMO if patient not going in the
   right direction, ie: maxed out on 1 pressor, SOB etc.
   .
   # Disposition: may be called out tonight if otherwise stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2149-1-26**] 05:31 PM
   22 Gauge - [**2149-1-28**] 01:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2149-01-28 11:19:00 Physician Attending Progress Note
Chief Complaint: Sepsis from unknown source
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off dopa, got transfused without bump in Hct.
   Refused all procedures.
   CT [**Last Name (un) **] with colitis.
   Cdiff equivocal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-27**] 10:15 AM
   Metronidazole - [**2149-1-28**] 02:30 AM
   Piperacillin - [**2149-1-28**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-1-27**] 10:00 PM
   Haloperidol (Haldol) - [**2149-1-28**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-28**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 54 (49 - 76) bpm
   BP: 133/59(78) {78/34(46) - 133/85(88)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,015 mL
                                                                    410 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  5,710 mL
                                                                    410 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,060 mL
                                                                    530 mL
   Urine:
                                                                  2,060 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,955 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: LLQ with guarding
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 1, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   181 K/uL
   84 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   31 mg/dL
   118 mEq/L
   144 mEq/L
   25.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2149-1-26**]  10:58 PM
                             [**2149-1-27**]  05:44 AM
                             [**2149-1-27**]  02:00 PM
                             [**2149-1-28**]  01:34 AM
   WBC
   8.8
   7.0
   Hct
   27.3
   25.8
   Plt
   234
   181
   Cr
   2.1
   1.9
   1.7
   1.4
   TropT
   0.12
   0.12
   0.09
   Glucose
   137
   146
   98
   84
   Other labs: PT / PTT / INR:18.2/123.0/1.7, CK / CKMB /
   Troponin-T:294/6/0.09, Differential-Neuts:82.4 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:0.4 %, Lactic Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:2.2 mg/dL
   Imaging: CT [**Last Name (un) **]: colitis
   Microbiology: Blood cxs: ngtd
   UA: ng
   UCx: pend
   Assessment and Plan
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   [**Age over 90 **] y/o M with shock/SIRS
   Sepsis: Off pressors. On Vanc and Zosyn emperically with po flagyl for
   colitis. No other source so far except colitis. Continue for now x 72
   hrs till cxs finalize.
   Unequivoval cdiff: repeat, switch flagyl to po if he can swallow. No
   TMegacolon on CT.
   CAD: [**Last Name (LF) **], [**First Name3 (LF) **] 55% with DHF. VSS, bradycardic. Off dopamine.
   Thrombocytopenia: gradual, follow.
   Anemia: didnt bump with Hct, but got fluids, follow clinically, guaic
   stool, check repeat coags.
   Renal failure: improving with hydration, follow.
   I/O: per UO, appears euvolemic now but Na 144. D51/2NS drip.
   ICU Care
   Nutrition:
   Comments: s/s consult
   Glycemic Control:
   Lines:
   16 Gauge - [**2149-1-26**] 05:31 PM
   22 Gauge - [**2149-1-28**] 01:25 AM
   Prophylaxis:
   DVT: (boots till PTT normalized.)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife HCP, goals [**Name2 (NI) 5834**]. CMO if doesnt
   improve, but improving so far.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2149-01-28 12:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-27**] 10:15 AM
   Piperacillin - [**2149-1-28**] 09:00 AM
   Metronidazole - [**2149-1-28**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-1-27**] 10:00 PM
   Haloperidol (Haldol) - [**2149-1-28**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-28**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 68 (49 - 76) bpm
   BP: 120/53(69) {78/34(46) - 133/85(88)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,015 mL
                                                                    605 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  5,710 mL
                                                                    605 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,060 mL
                                                                    650 mL
   Urine:
                                                                  2,060 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,955 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.0 g/dL
   84 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   31 mg/dL
   118 mEq/L
   144 mEq/L
   26.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2149-1-26**]  10:58 PM
                             [**2149-1-27**]  05:44 AM
                             [**2149-1-27**]  02:00 PM
                             [**2149-1-28**]  01:34 AM
                             [**2149-1-28**]  11:26 AM
   WBC
   8.8
   7.0
   Hct
   27.3
   25.8
   26.3
   Plt
   234
   181
   Cr
   2.1
   1.9
   1.7
   1.4
   TropT
   0.12
   0.12
   0.09
   Glucose
   137
   146
   98
   84
   Other labs: PT / PTT / INR:17.9/74.5/1.6, CK / CKMB /
   Troponin-T:294/6/0.09, ALT / AST:15/28, Alk Phos / T Bili:28/0.3,
   Differential-Neuts:82.4 %, Lymph:12.8 %, Mono:4.3 %, Eos:0.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.7 g/dL, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2149-1-26**] 05:31 PM
   22 Gauge - [**2149-1-28**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: